data/mechanism_extracts/OrgLett/10.1021_acs.orglett.5c04052.json
{"doi": "10.1021_acs.orglett.5c04052", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Continuous-flow electrochemical 1,2-arylheteroarylation of alkenes using aryl bromides and cyanopyridines to give 1,2-diarylethane products", "mechanism_family": ["radical_cathodic", "direct_SET"], "electrochemical_role": "Cathodic reduction of both the aryl bromide (to aryl radical via debromination) and the cyanopyridine (to a persistent radical anion); concurrent two-substrate cathodic SET enables radical-radical cross-coupling", "key_intermediates": [{"name": "aryl radical (from debromination of ArBr, 34)", "smiles": null, "role": "reactive"}, {"name": "transient benzylic/alkyl carbon-centered radical from aryl radical addition to alkene (35)", "smiles": null, "role": "transient"}, {"name": "cyanopyridine radical anion (36, persistent)", "smiles": null, "role": "reactive"}, {"name": "1,2-diarylethane cross-coupling product (37)", "smiles": null, "role": "reactive"}], "electron_flow": "At the cathode, the aryl bromide is reduced and loses bromide to give an aryl radical that adds across the alkene, generating a transient C-radical; in parallel the cyanopyridine is cathodically reduced to a persistent radical anion, and radical-radical cross-coupling between the transient and persistent radicals delivers the product. Et3N serves as the sacrificial reductant oxidized at the anode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 4 fully suppressed with 3.0 equiv TEMPO; TEMPO-aryl adduct detected by HRMS, indicating aryl radical intermediate"}, {"name": "(1-cyclopropylvinyl)benzene (radical clock 31)", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "Ring-opened product 32 isolated in 37% yield, supporting a carbon-centered radical intermediate"}, {"name": "methyl 4-bromobenzoate (1)", "smiles": "COC(=O)c1ccc(Br)cc1", "purpose": "redox_probe", "observation": "CV shows irreversible reduction at -1.86 V (vs Ag/AgCl) assigned to reductive debromination, with a subsequent quasi-reversible wave (Epc = -2.27 V) for the methyl benzoate radical"}, {"name": "styrene (2)", "smiles": "C=Cc1ccccc1", "purpose": "redox_probe", "observation": "No reduction wave from 0 to -2.5 V; electrochemically inert under conditions"}, {"name": "4-cyanopyridine (3)", "smiles": "N#Cc1ccncc1", "purpose": "redox_probe", "observation": "Quasi-reversible redox wave (Epc = -1.81 V, Epa = -1.61 V), characteristic of a persistent radical anion; similar potential to 1 enables concurrent cathodic reduction"}], "evidence_types_used": ["intermediate_trap_TEMPO", "radical_clock", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Aliphatic alkenes are incompatible under the standard conditions. Mechanism relies on the persistent radical effect: cyanopyridine radical anion accumulates as the persistent partner while the alkyl radical is transient, biasing selective cross-coupling over homocoupling. Batch electrolysis gave much lower yields than continuous flow under identical conditions."}
